US05216020
Step C: Preparation of N-ethyl-2-(formylmethyl)-2,3-dihydrothieno[2,3-b]thiophene-2-carboxamide-1,1-dioxide
N-Ethyl-2-allyl-2,3-dihydrothieno[2,3-b]thiophene-2-carboxamide-1,1-dioxide (7.2 g, 0.025 mol) in 1:1 methanol-chloroform (300 mL) was cooled to -78° C. Ozone was bubbled into the reaction mixture until a pale blue color persisted. The reaction was sparged with nitrogen for 10 minutes and dimethyl sulfide (7 mL) was added. The solution was warmed to room temperature and the solvents removed in vacuo. The residue was partitioned between water and ethyl acetate. The organic layer was washed with brine and dried over magnesium sulfate. The solution was filtered, and the solvent evaporated to give the title compound as an oil (5.3 g).

reactant | N-Ethyl-2-allyl-2,3-dihydrothieno[2,3-b]thiophene-2-carboxamide-1,1-dioxide | 0.025 mol, 7.2 g | C(C)NC(=O)C1(CC2=C(SC=C2)S1(=O)=O)CC=C | C12H15NO3S2
reactant | methanol chloroform | 300 mL | CO.C(Cl)(Cl)Cl
product | N-ethyl-2-(formylmethyl)-2,3-dihydrothieno[2,3-b]thiophene-2-carboxamide-1,1-dioxide | 5.3 g | C(C)NC(=O)C1(CC2=C(SC=C2)S1(=O)=O)CC=O | C11H13NO4S2
